US04166115
A mixture of ethyl 2-methoxyimino-4-bromoacetoacetate (a mixture of syn and anti isomers) (7.6 g.), O-ethyl thiocarbamate (3.0 g.) and dimethylacetamide (5 ml.) was stirred for 3 hours at 50° C. Ethyl acetate (50 ml.) was added to the reaction mixture and the resulting mixture was washed with water and with a saturated sodium chloride aqueous solution and dried over magnesium sulfate. Ethyl acetate was distilled off to give crystalline residue. The residue was washed with diisopropyl ether to give ethyl 2-methoxyimino-2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)acetate (syn isomer) (2.35 g.).

reactant | ethyl 2-methoxyimino-4-bromoacetoacetate | CON=C(C(=O)OCC)C(=O)CBr | C7H10BrNO4
reactant | O-ethyl thiocarbamate | 3.0 g | C(N)(OCC)=S | C3H7NOS
reactant | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-methoxyimino-2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)acetate | 2.35 g | CON=C(C(=O)OCC)C=1NC(SC1)=O | C8H10N2O4S
